US07378418B2
Preparation of 4-((7-(4-Chlorophenyl)-3-oxo-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-b]pyridazin-2(3H)-yl)methyl)benzonitrile
A solution of 7-(4-chlorophenyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one (96 mg, 0.3 mmol), prepared as described in Example 244, K2CO3 (82 mg, 0.59 mmol), and α-bromo-p-toluonitrile (70 mg, 0.356 mmol) in DMF (1 mL) was heated at 65° C. for 2.5 h. Using a similar procedure as described in Example 247, the crude product was obtained. The crude product was purified by reverse phase HPLC to give the title compound, 4-((7-(4-Chlorophenyl)-3-oxo-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-b]pyridazin-2(3H)-yl)methyl)benzonitrile (27 mg) as a yellow solid. HPLC RT: 2.45 min; M+H=439; 1H NMR (CDCl3): δ 8.63 (d, J=6.04 Hz, 2H), 8.21 (s, 1H), 7.63 (d, J=8.2 Hz, 2H), 7.49 (d, J=8.2 Hz, 2H), 7.33 (m, 2H), 7.21 (m, 2H), 7.08 (m, 2H), 5.25 (2H).

reactant | 7-(4-chlorophenyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 0.3 mmol, 96 mg | ClC1=CC=C(C=C1)C1=C(C=2N(N=C1)C(NN2)=O)C2=CC=NC=C2 | C16H10ClN5O
reactant | K2CO3 | 0.59 mmol, 82 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | α-bromo-p-toluonitrile | 0.356 mmol, 70 mg | BrCC1=CC=C(C=C1)C#N | C8H6BrN
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 4-((7-(4-Chlorophenyl)-3-oxo-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-b]pyridazin-2(3H)-yl)methyl)benzonitrile | 27 mg | ClC1=CC=C(C=C1)C1=C(C=2N(N=C1)C(N(N2)CC2=CC=C(C#N)C=C2)=O)C2=CC=NC=C2 | C24H15ClN6O
